US08471005B2
2-Methane sulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine (75.0 mg, 0.000261 mol) and 3-Morpholin-4-yl-phenylamine (93.0 mg, 0.000522 mol) were dissolved in N-Methylpyrrolidinone (2.0 mL) and the reaction was heated at 140° C. until HPLC showed consumption of starting material. The reaction mixture was then reduced en vacuo and the product was isolated and purified by Gilson prep HPLC to afford 9.70 mg of [7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(3-morpholin-4-yl-phenyl)-amine as a lyophilated powder. (M+H)=402.20. 1H NMR (400 MHz, DMSO, d6) δ 9.23 (s, 1H), 8.94 (s, 1H), 7.70 (d, 1H, J=7.84 Hz), 7.46 (m, 1H), 7.34 (s, 1H), 7.19 (d, 1H, J=7.83 Hz), 7.08 (m, 3H), 6.90 (m, 2H), 6.87 (m, 1H), 3.75 (s, 3H), 3.63 (m, 4H), 2.83 (m, 4H).

reactant | 2-Methane sulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 0.000261 mol, 75.0 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C14H13N3O2S
reactant | 3-Morpholin-4-yl-phenylamine | 0.000522 mol, 93.0 mg | N1(CCOCC1)C=1C=C(C=CC1)N | C10H14N2O
solvent | N-Methylpyrrolidinone | 2.0 mL | CN1C(CCC1)=O | C5H9NO
product | [7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(3-morpholin-4-yl-phenyl)-amine | 9.70 mg | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC(=CC=C2)N2CCOCC2 | C23H23N5O2
